US08791255B2
The product is prepared according to the procedure described in example 68, using 550 mg of sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 400 mg of 2-methylindoline and 500 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 320 μl of pyridine and 8.0 ml of N,N-dimethylformamide. 37 mg of 3-methyl-2-[2-(2-methyl-2,3-dihydro-1H-indol-1-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3H)-one are obtained in the form of a pink powder, the characteristics of which are the following:

reactant | sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 550 mg | CN1C(=NC(=CC1=O)N1CCOCC1)CC(=O)[O-].[Na+]
reactant | 2-methylindoline | 400 mg | CC1NC2=CC=CC=C2C1 | C9H11N
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 500 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 320 μl | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 8.0 ml | CN(C=O)C | C3H7NO
product | 3-methyl-2-[2-(2-methyl-2,3-dihydro-1H-indol-1-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3H)-one | 37 mg | CN1C(=NC(=CC1=O)N1CCOCC1)CC(=O)N1C(CC2=CC=CC=C12)C | C20H24N4O3
